US08455491B2
Step 4.1. 6-(4-benzylpiperazin-1-yl)pyridazin-3-ylamine
48.9 g (278 mmol) of 1-benzylpiperazine and 12.0 g (92.6 mmol) of 3-amino-6-chloropyridazine are heated at 160° C. for 1 hour. The brown oil obtained is poured into 500 ml of an aqueous solution of sodium bicarbonate and the product is extracted with dichloromethane. The organic phase is dried and then concentrated under reduced pressure. The oil obtained is triturated in diethyl ether and 20.5 g of a solid are isolated after filtration and drying.

reactant | 1-benzylpiperazine | 278 mmol, 48.9 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 3-amino-6-chloropyridazine | 92.6 mmol, 12.0 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-(4-benzylpiperazin-1-yl)pyridazin-3-ylamine | 20.5 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(N=N1)N | C15H19N5
